US05280047
2Z-[(4-hexylphenyl)methylene]-1-phenyl-1,3-butanedione
Benzoylacetone (0.65g, 0.004 moles), parahexylbenzaldehyde (0.76g, 0.004 moles) and piperidine (3 drops) were stirred in ethyl ether (10ml) for 20 hrs. An additional 200mg benzoylacetone was added and the solution stirred for 48 hrs. The solution was concentrated to an oil with a gentle stream of Nitrogen. The product was purified by silica gel chromatography. The structure assignment was supported by NMR, infrared and uv spectra and elemental analysis (334.5).

reactant | Benzoylacetone | 0.004 moles, 0.65g | C(C1=CC=CC=C1)(=O)CC(C)=O | C10H10O2
reactant | parahexylbenzaldehyde | 0.004 moles, 0.76g | C(CCCCC)C1=CC=C(C=O)C=C1 | C13H18O
reactant | benzoylacetone | 200mg | C(C1=CC=CC=C1)(=O)CC(C)=O | C10H10O2
catalyst | piperidine | 3 drops | N1CCCCC1 | C5H11N
solvent | ethyl ether | 10ml | C(C)OCC | C4H10O
product | 2Z-[(4-hexylphenyl)methylene]-1-phenyl-1,3-butanedione | C(CCCCC)C1=CC=C(C=C1)\C=C(/C(=O)C1=CC=CC=C1)\C(C)=O | C23H26O2
